US08067445B2
Step 3: [2′-({[2-(4-Chloro-phenoxy)-2-methyl-propionyl]-ethyl-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
To a solution of 2-(4-chloro-phenoxy)-2-methyl-propionyl chloride (0.58 mmol) in CH2Cl2 was added (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.200 g, 0.52 mmol) in triethylamine (0.17 mL, 1.23 mmol), and the reaction was stirred at room temperature for 30 minutes. The mixture was concentrated and purified by silica gel chromatography (10-30% EtOAc in hexanes) to give the title compound.

reactant | 2-(4-chloro-phenoxy)-2-methyl-propionyl chloride | 0.58 mmol | ClC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10Cl2O2
reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.52 mmol, 0.200 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | triethylamine | 1.23 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2′-({[2-(4-Chloro-phenoxy)-2-methyl-propionyl]-ethyl-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C(C)(C)OC1=CC=C(C=C1)Cl)=O)=O | C30H31ClF3NO5
